US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-dimethylamino-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (110 mg) is dissolved in ethanol (5 ml) and thereto is added 1N-aqueous sodium hydroxide solution (1 ml) and the mixture is stirred at room temperature for 2 hours. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-dimethylamino-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (107 mg). MS (m/z): 719 [M+H]+

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-dimethylamino-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 110 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)OC2=NC=NC(=C2)N(C)C)C=C(C1)C(F)(F)F)(F)F | C33H31F9N6O4
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-dimethylamino-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 107 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)OC2=NC=NC(=C2)N(C)C)C=C(C1)C(F)(F)F)(F)F | C31H27F9N6O4
